US04661520
Preparation of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)guanidine (Method C):
A mixture of 1.3 g of N-cyano-O-phenylisourea and 1.2 g of 1,2,3,4-tetrahydro-1-naphthylamine in 5 ml of chloroform was heated at reflux in an oil bath. Disappearance of the isourea was monitored by thin layer chromatography analysis. After 30 hours, the resulting thick solution was treated with 5 ml of toluene and allowed to stand at room temperature which resulted in the crystallization of the desired product. The supernatant solution was withdrawn and the product washed with toluene (10 ml). Upon drying under vacuum, 0.91 g of the desired compound was obtained. A second crop of crystals was collected after concentrating the mother liquor slightly. Total yield of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)guanidine was 1.29 g, mp 153°-155° C.

reactant | N-cyano-O-phenylisourea | 1.3 g | C(#N)NC(OC1=CC=CC=C1)=N | C8H7N3O
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 1.2 g | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | isourea | NC(O)=N | CH4N2O
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)guanidine | C(#N)NC(NC1CCCC2=CC=CC=C12)=N | C12H14N4
